US08084515B2
A mixture of glycerol diallyl ether (TCI America, Portland, Oreg.) (30.00 g, 0.17 mole (mol)), methacrylic anhydride (Sigma-Aldrich) (29.55 g, 0.19 millimole (mmol)), triethylamine (Alfa Aesar, Ward Hill, Mass.) (17.76 g, 0.17 mol), 4-dimethylaminopyridine (Sigma-Aldrich) (1.05 g, 8.6 mmol), and tetrahydrofuran (70 ml) was stirred at room temperature for 4 hours. An additional charge of 4-dimethylaminopyridine (1.05 g, 8.6 mmol) was added and the mixture was stirred at room temperature for 48 hours. The reaction mixture was concentrated under vacuum and diluted with ethyl acetate (400 ml). The mixture was extracted with saturated aqueous sodium bicarbonate (200 ml) and three times with saturated aqueous sodium chloride (100 ml). The organic phase was dried over MgSO4 and concentrated under vacuum. The residue was distilled under reduced pressure and two fractions were collected (60-80° C. at 0.15 mm Hg, 20 Pascals (7.48 g)) and 80-85° C. at 0.15 mm Hg, 20 Pascals (8.57 g)). The higher boiling fraction was combined with 4.6 g of the lower boiling fraction and purified by column chromatography over silica gel (30 wt % ethyl acetate in hexane) to yield 2-methylacrylic acid 2-allyloxy-1-allyloxymethyl-ethyl ester as a colorless oil (8.90 g).

reactant | glycerol diallyl ether | 0.17 mole, 30.00 g | C(C=C)OCC(OCC=C)CO | C9H16O3
reactant | methacrylic anhydride | 0.19 millimole, 29.55 g | C(C(=C)C)(=O)OC(C(=C)C)=O | C8H10O3
reactant | triethylamine | 0.17 mol, 17.76 g | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 8.6 mmol, 1.05 g | CN(C1=CC=NC=C1)C | C7H10N2
catalyst | 4-dimethylaminopyridine | 8.6 mmol, 1.05 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-methylacrylic acid 2-allyloxy-1-allyloxymethyl-ethyl ester | 8.90 g | C(C=C)OCC(COCC=C)OC(C(=C)C)=O | C13H20O4
